* Schematics Netlist *


M1MN1 _N_1 _N_2 _N_9 nch
M1MN2 _N_1 _N_4 _N_3 nch
M1MN3 _N_1 _N_6 _N_5 nch
M1MN4 _N_1 _N_7 _N_10 nch
M1MN5 _N_9 _N_13 _N_8 nch
M1MN6 _N_3 _N_13 _N_8 nch
M1MN7 _N_5 _N_11 _N_8 nch
M1MN8 _N_10 _N_11 _N_8 nch
R1R1 _N_1 _N_12 1K    
V1V1 _N_13 _N_11  DC=1V  


