* Schematics Netlist *


C1C1 _N_6 GND 1p IC=0V
C1C2 _N_6 GND 1p IC=0V
C1C3 _N_6 GND 1p IC=0V
C1C4 _N_7 GND 1p IC=0V
M1MN1 _N_5 _N_3 GND nch
R1R1 _N_1 _N_2 1K    
R1R2 _N_2 _N_5 1K    
R1R3 _N_3 _N_5 1K    
R1R4 GND _N_3 1K    
R1R5 _N_1 _N_6 1K    
R1R6 _N_6 _N_7 1K    


