* Schematics Netlist *
*Push Pull amplifier - AH - 227


C1C1 Vout GND 1p IC=0V
R1R1 GND Vout 1K    
M1T1 VDD _N_1 Vout nch
M1T2 VDD _N_1 _N_2 nch
M1T3 _N_2 _N_3 _N_9 nch
M1T4 _N_4 _N_5 _N_6 nch
M1T5 _N_6 _N_6 VSS nch
M1T6 Vout _N_6 VSS nch
M1T7 _N_9 VIN VSS nch
M1T8 VDD VIN _N_4 nch



