* Schematics Netlist *
* Cascoded diff amp ah239


I1I1 _N_5 _N_13  DC=1mA  
M1T1 _N_4 _N_4 VDD pch
M1T10 _N_10 _N_11 _N_15 nch
M1T11 _N_15 _N_13 VSS nch
M1T12 _N_13 _N_13 VSS nch
M1T2 _N_1 _N_4 VDD pch
M1T3 _N_2 _N_4 VDD pch
M1T4 _N_5 _N_5 _N_4 pch
M1T5 _N_7 _N_5 _N_1 pch
M1T6 _N_8 _N_5 _N_2 pch
M1T7 _N_7 _N_14 _N_6 nch
M1T8 _N_8 _N_14 _N_10 nch
M1T9 _N_6 _N_9 _N_15 nch
V1V1 _N_14 _N_15  DC=1V  



