* Schematics Netlist *
*Folded current mirror AH 236


I1I1 _N_10 _N_9  DC=1mA  
M1T1 _N_10 _N_10 _N_11 pch
M1T10 _N_2 _N_2 _N_9 nch
M1T2 _N_7 _N_10 _N_11 pch
M1T3 _N_2 _N_10 _N_11 pch
M1T4 _N_4 _N_10 _N_11 pch
M1T5 _N_2 _N_3 _N_1 nch
M1T6 _N_4 _N_5 _N_1 nch
M1T7 _N_1 _N_6 _N_9 nch
M1T8 _N_7 _N_8 _N_9 nch
M1T9 _N_2 _N_2 _N_9 nch



